US08106064B2
3-[3-(2-Fluoro-5-nitro-pyridin-3-ylmethyl)-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile (162):
3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (37 mg, 0.124 mmol, 1.2 eq.) was dissolved in 1.5 mL DMF. Potassium carbonate (14 mg, 1 eq.) was added and the reaction was stirred at room temperature for 10 minutes. 3-Bromomethyl-2-fluoro-5-nitro-pyridine (27 mg, 0.103 mmol, 1 eq.) and lithium iodide (14 mg, 1 eq.) were added. The reaction was stirred at room temperature for 2 hours. Ethyl acetate was added to the reaction mixture, followed by washing with brine. The organic layer was concentrated down and purified (silica gel, 0-80% EtOAC/hexane) to give white powder (16 mg, 34%). LC-MS shows 449.9 (M−1). 1H NMR (300 MHz, CDCl3): δ 8.98 (d, 2H), 8.48 (m, 1H), 7.98 (s, 1H), 7.93 (s, 1H), 7.78 (m, 2H), 5.08 (d, 1H), 4.56 (d, 1H), 2.50 (s, 3H), 2.22 (m, 1H), 1.22 (dd, 6H).

reactant | 3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 0.124 mmol, 37 mg, 1.2 eq. | C(C)(C)C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C#N)C=C(C1)C | C16H15N3O3
reactant | Potassium carbonate | 14 mg, 1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 3-Bromomethyl-2-fluoro-5-nitro-pyridine | 0.103 mmol, 27 mg, 1 eq. | BrCC=1C(=NC=C(C1)[N+](=O)[O-])F | C6H4BrFN2O2
reactant | lithium iodide | 14 mg, 1 eq. | [I-].[Li+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-(2-Fluoro-5-nitro-pyridin-3-ylmethyl)-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile | 16 mg, 34% | FC1=NC=C(C=C1CN1C(NC(C(=C1C(=O)C=1C=C(C#N)C=C(C1)C)C(C)C)=O)=O)[N+](=O)[O-] | C22H18FN5O5
